US09422332B2
To the solution of (S)-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester (100 mg, 361 μmol, Eq: 1) and 2-chloro-6-fluoroaniline (63.0 mg, 433 μmol, Eq: 1.2) in pyridine (2.00 mL) at 0° C. was added POCL3 (82.9 mg, 50.4 μL, 541 μmol, Eq: 1.5). Reaction was warmed to RT and stirred for 2 h. The mixture was evaporated and water was added to the residue. The mixture was extracted with EtOAc, the combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give (S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (79 mg) as a white solid.

reactant | (S)-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester | 361 μmol, 100 mg | C(C)(C)(C)OC(=O)N1[C@@H](C2=CC=CC=C2CC1)C(=O)O | C15H19NO4
reactant | 2-chloro-6-fluoroaniline | 433 μmol, 63.0 mg | ClC1=C(N)C(=CC=C1)F | C6H5ClFN
solvent | pyridine | 2.00 mL | N1=CC=CC=C1 | C5H5N
product | (S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 79 mg | C(C)(C)(C)OC(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)Cl)=O | C21H22ClFN2O3
